datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1CC[C:22](=[O:23])[CH:21]=[CH:20]C1.O=[N+]([O-])C1=CC=C([S:61]([CH-:10]Cl)(=[O:62])=[O:72])C=C1>>O=[N+]([O-])C1=CC=C([S:61]([CH:10](Cl)[CH:20]2CCCC[C:22]([O-:23])=[CH:21]2)(=[O:62])=[O:72])C=C1 10=20;20,21=21,22;22,23=23"
"CC(C)[Si:63](C(C)C)(C(C)C)[O:12][C:11](C)=[CH2:10].COC1=CC(CC2C(=O)N(C)C(C)(C)/[N+:23]2=[CH:22]\[CH:21]=[CH:20]\[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=CC(OC)=C1OC>>COC1=CC(CC2C(=O)N(C)C(C)(C)[N:23]2[CH:22]=[CH:21][CH:20]([CH2:10][C:11](C)=[O+:12][Si:63](C(C)C)(C(C)C)C(C)C)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=CC(OC)=C1OC 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C/[CH:10]=[CH:11]/C.CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](N(C)C)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([CH:10](C)[CH+:11]C)([C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](N(C)C)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20"
"CC(C)(C)[O:33][C:22](/[N:21]=[N:20]/[C:41](=[O:42])[O:43]C(C)(C)C)=[O:23].CC[O:62]/[C:11](=[CH:10]/[C:71]1=[CH:72][C:73](Cl)=[CH:74][CH:83]=[CH:82]1)[O-:12]>>CC[O:62][C:11]([CH:10]([N:20]([N:21]=[C:22]([O-:23])[O:33]C(C)(C)C)[C:41](=[O:42])[O:43]C(C)(C)C)[C:71]1=[CH:72][C:73](Cl)=[CH:74][CH:83]=[CH:82]1)=[O:12] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
Br[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56](Br)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1.C[N:62]1[CH:61]=[N:10][CH:71]=[CH:72]1>>C[N:62]1[CH:61]=[N+:10]([CH:20]([C:31]2=[CH:32][CH:33]=[C:34](Br)[CH:35]=[CH:36]2)[CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56](Br)[CH:57]=[CH:58]2)[CH:71]=[CH:72]1 10=20
"C/[C:11](=[C:10]1\CCC[O:72][C:61]1=[O:62])[O-:12].C[N+:23](C)=[CH:22]/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>C[C:11]([C:10]1([CH:20]([CH:21]=[CH:22][N:23](C)C)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)CCC[O:72][C:61]1=[O:62])=[O:12] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC1=CC(C)=C([N+:63]2=[C:62]([C:71]([C-:10](C)C3=CC=CC=C3)=[O:72])[N:66](C3=C(C)C=C(C)C=C3C)[CH:65]=[CH:64]2)C(C)=C1.[O+]#C[Fe-2:21]1234(C#[O+])(C#[O+])C5C[CH:20]1C2C3C54>>CC1=CC(C)=C([N+:63]2=[C:62]([C:71]([C:10](C)(C3=CC=CC=C3)[CH:20]3CC4C5C6C3[Fe-3:21]456(C#[O+])(C#[O+])C#[O+])=[O:72])[N:66](C3=C(C)C=C(C)C=C3C)[CH:65]=[CH:64]2)C(C)=C1 10=20;20,21=21"
"C[C:63]([NH:12][C:11](C1=CC2=C(C=CC=C2)C=C1)=[CH2:10])=[O:64].O=[N+]([O-])[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[CH:21]/[C:22](C2=CC=CC=C2)=[O:23])[CH:36]=[CH:35]1>>C[C:63]([NH+:12]=[C:11](C1=CC2=C(C=CC=C2)C=C1)[CH2:10][CH:20]([CH:21]=[C:22](C1=CC=CC=C1)[O-:23])[C:31]1=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]1)=[O:64] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[O:72][C:11](=[CH:10][P+:61](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[O-:12].F[C:43]1=[CH:44][CH:45]=[CH:46][C:41]([C+:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:51]2=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]2)=[CH:42]1>>CC[O:72][C:11]([CH:10]([C:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)([C:41]1=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]1)[P+:61](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=[O:12] 10,11=10,20;12=11,12"
"C1=CC=C([N:21]=[C:20]=[N:31]C2=CC=CC=C2)C=C1.CC1(C)[O:72][C:61](=[O:62])[C:10](CC2=CC=C([N+](=O)[O-])C=C2)=[C:11]([O-:12])[O:82]1>>CC1(C)[O:72][C:61](=[O:62])[C:10](CC2=CC=C([N+](=O)[O-])C=C2)([C:20]([N-:21]C2=CC=CC=C2)=[N:31]C2=CC=CC=C2)[C:11](=[O:12])[O:82]1 10,11=10,20;12=11,12;20,21=21"
"C1=CC=C([S:32]([C:21](=[CH2:20])[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])(=[O:33])=[O:34])C=C1.[H:10][CH:11]1[CH:12]=[CH:13][CH:14]=[CH:15][CH:16]=[CH:17]1>>C1=CC=C([S:32]([C-:21]([CH2:20][H:10])[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])(=[O:33])=[O:34])C=C1.[CH:11]1=[CH:12][CH:13]=[CH:14][CH:15]=[CH:16][CH+:17]1 10,11=10,20;12,13=11,12;14,15=13,14;16,17=15,16;20,21=21"
"CC1=CC(C)=C([N:63]2[C:62](/[C:11](=[C:10](\C)C3=CC=CC=C3)[O-:12])=[N+:73](C3=C(C)C=C(C)C=C3C)[N:65]=[C:64]2C2=CC=CC=C2)C(C)=C1.CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][C:43]2=[C:44](N(C)CCC2)[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33]>>CC[O:34][C:32]([C:21]([CH:20]([C:10](C)(C1=CC=CC=C1)[C:11](=[O:12])[C:62]1=[N+:73](C2=C(C)C=C(C)C=C2C)[N:65]=[C:64](C2=CC=CC=C2)[N:63]1C1=C(C)C=C(C)C=C1C)[C:41]1=[CH:42][C:43]2=[C:44](N(C)CCC2)[CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C/[CH:10]=[CH:11]\[C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1.Cl[C:30]1=[C:31](Cl)[C:32](=[O:33])[C:20](=[O:21])[C:41](Cl)=[C:42]1Cl>>C[CH:10]([CH+:11][C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1)[C:20]1([O-:21])[C:32](=[O:33])[C:31](Cl)=[C:30](Cl)[C:42](Cl)=[C:41]1Cl 10,11=10,20;20,21=21"
